US05928999
3-(3-Amino-4-chlorophenyl)-4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazole (No. Ia.060)
155 ml of acetic acid were added to a suspension of 32.1 g (0.576 mol) of iron powder in 305 ml of ethanol. 64.9 (0.192 mol) of 4-chloro-3-(4-chloro-3-nitrophenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole were added a little at a time to this mixture at 70-75° C. After 1 hour, 0.5 l of ethyl acetate was added and the solution was then filtered over a silica gel bed and subsequently concentrated. The residue was taken up in ethyl acetate. The ethyl acetate phase was washed with water, saturated sodium hydrogen carbonate solution and saturated sodium chloride solution, then dried over magnesium sulfate and finally concentrated. Yield: 56.4 g.

reactant | acetic acid | 155 ml | C(C)(=O)O | C2H4O2
reactant | 4-chloro-3-(4-chloro-3-nitrophenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole | ClC=1C(=NN(C1OC(F)F)C)C1=CC(=C(C=C1)Cl)[N+](=O)[O-] | C11H7Cl2F2N3O3
reactant | ethyl acetate | 0.5 l | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 305 ml | C(C)O | C2H6O
catalyst | iron | 0.576 mol, 32.1 g | [Fe] | Fe
product | 3-(3-Amino-4-chlorophenyl)-4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazole | NC=1C=C(C=CC1Cl)C1=NN(C(=C1Cl)OC(F)F)C | C11H9Cl2F2N3O
